US07453010B2
A mixture of 3.22 g of ethyl trans-{4-[4-(benzylamino)cyclohexyl]phenoxy}acetate (8.7 mmol) and 5 g of 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene (11.2 mmol) in ethanol (72 ml) is brought to reflux for 40 h. A 3N solution of hydrochloric acid in ethanol is added and the reaction medium is heated at 50° C. for 19 h. The solvents are evaporated under reduced pressure and then water, dichloromethane and a saturated aqueous sodium carbonate solution are added. The aqueous phase is extracted once with dichloromethane. The organic phases are combined, washed with water and then dried over magnesium sulfate. The solvents are evaporated under reduced pressure and ethyl trans-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate is obtained in the form of an oil (2.7 g, 43%) after purification on silica gel (eluent: ethyl acetate/heptane 30/70 to 50/50 gradient in 40 min). [M+H+]=717.6

reactant | ethyl trans-{4-[4-(benzylamino)cyclohexyl]phenoxy}acetate | 8.7 mmol, 3.22 g | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1 | C23H29NO3
reactant | 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene | 11.2 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@@H]1CO1)N(S(=O)(=O)C)C(=O)OC(C)(C)C | C22H27NO7S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 72 ml | C(C)O | C2H6O
product | ethyl trans-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C40H48N2O8S
